US20010014737A1
j) Methyl (S)-8-hydroxy-3-oxo-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro- 1 H-2-benzazepine-4-acetate
A solution of boron tribromide in CH2Cl2 (1.0 M, 160 mL, 160 mmol) was added dropwise over 30 min to a solution of methyl (S)-8-methoxy-3-oxo-2-(4-trifluoromethylbenzyl)-2, 3,4,5-tetrahydro-1 H-2-benzazepine4-acetate (16.67 g, 39.6 mmol) in anhydrous CH2Cl2 (150 mL) at −20° C. under argon. After an additional 1.5 hr at −15 to −20° C., the reaction was recooled to −20° C. and quenched by careful dropwise addition of MeOH (160 mL). The reaction was stirred at −10 to 0° C. for 1 hr, then was concentrated on the rotavap. The residue was reconcentrated from MeOH (2×). Purification by flash chromatography on silica gel (50 to 100% ethyl acetate/hexanes) gave the title compound (14.87 g, 92%) as a white solid: [α]D−81.8° (c, 1.0, MeOH); TLC (silica, 50% EtOAc/hexane) Rf 0.54; MS (ES) m/e 408.2 (M+H)+; 1H NMR (400, CDCl3 +2% DMSO-d6) δ7.53 (d, J=8.1 Hz, 2 H), 7.31 (d, J=8.1 Hz, 2 H), 6.93 (d, J=8.4 Hz, 1 H), 6.70 (dd, 1 H), 6.41 (d, J=2.3 Hz, 1 H), 5.16 (d, J=16.4 Hz, 1 H), 5.01 (d, J=15.6 Hz, 1 H), 4.39 (d, J=15.6 Hz, 1 H), 3.84 (m, 1 H), 3.73 (d, J=16.4 Hz, 1 H), 3.71 (s, 3 H), 3.01 (dd, 1 H), 2.98 (m, 1 H), 2.90 (dd, 1 H), 2.47 (dd, 1 H).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | methyl (S)-8-methoxy-3-oxo-2-(4-trifluoromethylbenzyl)-2, 3,4,5-tetrahydro-1 H-2-benzazepine4-acetate | 39.6 mmol, 16.67 g | COC1=CC2=C(C[C@H](C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)CC(=O)OC)C=C1 | C22H22F3NO4
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 160 mmol, 1.0 M, 160 mL | C(Cl)Cl | CH2Cl2
product | Methyl (S)-8-hydroxy-3-oxo-2-(4-trifluoromethylbenzyl)-2,3,4,5-tetrahydro- 1 H-2-benzazepine-4-acetate | 14.87 g, 92% | OC1=CC2=C(C[C@H](C(N(C2)CC2=CC=C(C=C2)C(F)(F)F)=O)CC(=O)OC)C=C1 | C21H20F3NO4
